US05021574
6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl-]-2-acetoxy-3-propanylthio]- purin-9-yl-3-propanoic acid, methyl ester
To NaH (0.02 mmol, 0.96 mg, 50% suspension in mineral oil) in DMF (5 mL) at 0° C. was added 6-(1-[1-[bis(4-fluorophenyl)methyl]-piperazin-4-yl]-2-acetoxy-3-propanylthio]purine (1.0 g, 1.8 mmol) neat in portions. After stirring about 15 min, methylacrylate (1.8 mmol, 0.16 mL) was added neat at 0° C. The ice bath was removed and the mixture stirred at room temperature for 7 days. The mixture was then heated on a 60° C. oil bath for 24 h. The DMF was removed in vacuo (1 mmHg, 60° C.) and the crude residue was eluted through silica gel using 10% MeOH:CH2Cl2. Pure product was isolated (550 mg, 49.1%) as a glassy solid; mp 55°-58° C. (dec.). DCI/MS (M+1) 625; (300 MHz) 1H NMR (CDCl3) δ: 8.15 (s,1H), 8.05 (s,1H), 7.35 (m,4H), 6.95 (m,4H), 5.3 (m,1H), 4.5 (t,2H,J=6.2 Hz), 4.2 (s,1H), 3.4 and 4.0 (q of q 2H), 3.65 (s,3H), 2.91 (t,2H,J=6.1 Hz), 2.6 (d,2H,J=6.1 Hz), 2.55 and 2.35 (m,8H), 2.0 (s,3H).

reactant | NaH | 0.02 mmol, 0.96 mg | [H-].[Na+]
reactant | 6-(1-[1-[bis(4-fluorophenyl)methyl]-piperazin-4-yl]-2-acetoxy-3-propanylthio]purine | 1.8 mmol, 1.0 g | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=C2NC=NC2=NC=N1)OC(C)=O)C1=CC=C(C=C1)F | C27H28F2N6O2S
reactant | methylacrylate | 1.8 mmol, 0.16 mL | COC(C=C)=O | C4H6O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl-]-2-acetoxy-3-propanylthio]- purin-9-yl-3-propanoic acid, methyl ester | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CSC1=C2N=CN(C2=NC=N1)CCC(=O)OC)OC(C)=O)C1=CC=C(C=C1)F | C31H34F2N6O4S
